US04088770
A solution of 2-chlorobenzoxazole (15.4 g., 0.1 mole) in 150 ml. of tetrahydrofuran was added dropwise to a solution of 2-fluoro-5-(trifluoromethyl)aniline in 200 ml. of refluxing tetrahydrofuran. Reflux of the reaction mixture was continued on a steam bath for 16 hours. The tetrahydrofuran solvent was then removed by distillation under vacuum. The oily residue was solidified by addition of approximately 100 ml. of water. The solid material was separated by filtration and was recrystallized from an acetone-water solvent mixture to give 2-[2-fluoro-5-(trifluoromethyl)anilino]benzoxazole having a melting point of 164°-165° C.

reactant | 2-chlorobenzoxazole | 0.1 mole, 15.4 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | 2-fluoro-5-(trifluoromethyl)aniline | FC1=C(N)C=C(C=C1)C(F)(F)F | C7H5F4N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[2-fluoro-5-(trifluoromethyl)anilino]benzoxazole | FC1=C(NC=2OC3=C(N2)C=CC=C3)C=C(C=C1)C(F)(F)F | C14H8F4N2O
